US05849757
The thus separated (4R)-4-(1-ethoxycarbonylcyclopropyl)-1-[(S)-1-phenylethyl]-2-pyrrolidone is allowed to react with Lawesson reagent to give (4S)-4-(1-ethoxycarbonylcyclopropyl)-1-[(S)-1-phenylethyl]-2-pyrrolidinethione. This reaction can also be effected using phosphorus pentasulfide.

reactant | (4R)-4-(1-ethoxycarbonylcyclopropyl)-1-[(S)-1-phenylethyl]-2-pyrrolidone | C(C)OC(=O)C1(CC1)[C@H]1CC(N(C1)[C@@H](C)C1=CC=CC=C1)=O | C18H23NO3
reactant | Lawesson reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | (4S)-4-(1-ethoxycarbonylcyclopropyl)-1-[(S)-1-phenylethyl]-2-pyrrolidinethione | C(C)OC(=O)C1(CC1)[C@@H]1CC(N(C1)[C@@H](C)C1=CC=CC=C1)=S | C18H23NO2S
